US08110585B2
1-[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride
To a solution of tert-butyl {[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate (2.68 g, 8.89 mmol) in ethyl acetate (50 mL) was added 4 M hydrochloric acid/ethyl acetate (50 mL) solution, and the mixture was stirred at room temperature for 3 hr. The solvent was concentrated under reduced pressure, and the obtained crystals were washed with ethyl acetate to give the title compound (2.40 g, yield 98%).

reactant | tert-butyl {[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate | 8.89 mmol, 2.68 g | CN1N=C2C=CC=C(C2=C1)[C@@H]1[C@H](C1)CNC(OC(C)(C)C)=O | C17H23N3O2
reactant | hydrochloric acid ethyl acetate | 4 M, 50 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride | 2.40 g, yield 98% | Cl.Cl.CN1N=C2C=CC=C(C2=C1)[C@@H]1[C@H](C1)CN | InChI=1S/C12H15N3.2ClH/c1-15-7-11-9(10-5-8(10)6-13)3-2-4-12(11)14-15;;/h2-4,7-8,10H,5-6,13H2,1H3;2*1H/t8-,10+;;/m1../s1
